US08648066B2
To a solution of 2-(chloromethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one (150 mg, 0.66 mmol, reagent preparation 17) in DMF (3 mL) was added sodium azide (215 mg, 3.3 mmol). The resulting mixture was stirred at rt for 35 min. Water was added and the resulting mixture was extracted twice with ethyl acetate. The combined organic extracts were washed with aqueous lithium chloride (10%), dried over magnesium sulfate, filtered, and concentrated in vacuo to provide 2-(azidomethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one (151 mg, 0.65 mmol, 98% yield) as a waxy yellow solid. 1H NMR (400 MHz, CDCl3) δ 11.70 (br s, 1H), 4.41 (s, 2H), 2.66 (t, 2H), 2.33 (s, 2H), 1.58 (t, 3H), 1.00 (s, 6H); MS (EI) for C11H15N5O: 234 (MH+).

reactant | 2-(chloromethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one | 0.66 mmol, 150 mg | ClCC1=NC=2CCC(CC2C(N1)=O)(C)C | C11H15ClN2O
reactant | sodium azide | 3.3 mmol, 215 mg | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(azidomethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one | 0.65 mmol, 151 mg, 98% yield | N(=[N+]=[N-])CC1=NC=2CCC(CC2C(N1)=O)(C)C | C11H15N5O
